US04000275
6-(Carboethoxypropyl)-3-methyl-9-ethoxybenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 3-methyl-9-ethoxybenzimidazo[2,1-b]quinazolin-12(6H)one and ethyl 4-bromobutyrate.

reactant | 3-methyl-9-ethoxybenzimidazo[2,1-b]quinazolin-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C=C1)OCC)=O | C17H15N3O2
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | 6-(Carboethoxypropyl)-3-methyl-9-ethoxybenzimidazo[2,1-b]quinazolin-12(6H)one | C(=O)(OCC)CCCN1C2=C(C=C(C=C2)OCC)N2C1=NC1=CC(=CC=C1C2=O)C | C23H25N3O4
